US04882341
A solution of the methyl ester of E-N-cinnamoylsarcosine (2.03 g) and methyl formate (ca. 11 ml) in dry DMF (15 ml) was added to a stirred suspension of sodium hydride (0.42 g) in dry DMF (20 ml). Only gentle effervescence was observed at first, but after 40 minutes brisk effervescence began [further methyl formate (3 ml) added], subsiding after about 15 minutes and continuing gently until the mixture was carefully diluted with aqueous sodium carbonate after 7.5 hours. The mixture was extracted with ether, and the extracts were washed with aqueous sodium carbonate then water, dried and concentrated under reduced pressure to give recovered E-N-cinnamoylsarcosine methyl ester (0.975 g). The original basic aqueous layer was acidified with concentrated hydrochloric acid and extracted with ether. The extracts were washed with water, dried and concentrated under reduced pressure to give methyl N-cinnamoyl-N-methyl-2-amino-3-hydroxypropenoate (1.108 g, 49% yield, or 94% based on recovered starting material) as a pale red glass, used without further purification for the next step. The proton n.m.r. spectrum recorded using deuteriochloroform as solvent showed duplication of some signals (presumably due to restricted rotation about the amide bond). However, with deuterated dimethylsulphoxide as solvent, the following single set of signals was seen:

reactant | E-N-cinnamoylsarcosine | 2.03 g | C(\C=C\C1=CC=CC=C1)(=O)N(C)CC(=O)O | C12H13NO3
reactant | methyl formate | ca. 11 ml | C(=O)OC | C2H4O2
reactant | sodium hydride | 0.42 g | [H-].[Na+]
reactant | methyl formate | 3 ml | C(=O)OC | C2H4O2
solvent | DMF | 15 ml | CN(C)C=O | C3H7NO
solvent | DMF | 20 ml | CN(C)C=O | C3H7NO
solvent | sodium carbonate | C([O-])([O-])=O.[Na+].[Na+]
product | methyl N-cinnamoyl-N-methyl-2-amino-3-hydroxypropenoate | 1.108 g, 49% yield | C(C=CC1=CC=CC=C1)(=O)N(C(C(=O)OC)=CO)C | C14H15NO4
